US06949542B2
(5-Ethoxy-2-nitro-phenyl)-carbamic acid tert-butyl ester was prepared via the di-Boc-compound from 5-ethoxy-2-nitro-phenylamine [CAS-No. 27076-16-0] [prepared by stirring commercially available 5-chloro-2-nitro-phenylamine [CAS-No. 1635-61-6], ethanol and KOH in DMSO at 60° C. for 7 days] (7.78 g, 42.7 mmol) and Boc2O (19.57 g, 89.7 mmol), followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure A (method c). Obtained as a yellow solid (8.71 g).

reactant | 5-ethoxy-2-nitro-phenylamine | C(C)OC=1C=CC(=C(C1)N)[N+](=O)[O-] | C8H10N2O3
reactant | 5-chloro-2-nitro-phenylamine | ClC=1C=CC(=C(C1)N)[N+](=O)[O-] | C6H5ClN2O2
reactant | KOH | [OH-].[K+]
reactant | Boc2O | 89.7 mmol, 19.57 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | (5-Ethoxy-2-nitro-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OCC)[N+](=O)[O-])=O | C13H18N2O5
